US04141901
To a solution of 5-chloro-2-[3-(N-carbobenzoxyglycyl)aminomethyl-4H-1,2,4-triazol-4-yl]-benzophenone (2.1 g) in anisole (4 ml), 30% hydrogen bromide-acetic acid is added. The resultant mixture is stirred for 1 hour and mixed with ether. The precipitate is filtered, washed with ether and dissolved in methylene chloride (20 ml). The methylene chloride layer is washed with saturated aqueous sodium bicarbonate, water and saturated aqueous saline solution in order, dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The residue is chromatographed on a column of silica gel, which is eluted with methanol to give 5-chloro-2-(3-glycylaminomethyl-4H-1,2,4-triazol-4-yl)-benzophenone as a colorless oil (0.39 g).

reactant | 5-chloro-2-[3-(N-carbobenzoxyglycyl)aminomethyl-4H-1,2,4-triazol-4-yl]-benzophenone | 2.1 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CNC(CNC(=O)OCC1=CC=CC=C1)=O | C26H22ClN5O4
reactant | ether | CCOCC | C4H10O
solvent | anisole | 4 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrogen bromide acetic acid | Br.C(C)(=O)O
product | 5-chloro-2-(3-glycylaminomethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 0.39 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CNC(CN)=O | C18H16ClN5O2
